US04504415
H-Ala-Val-Asp(OtBu)-Thr(tBu)-Ser(tBu)-Ser(tBu)-Glu(OtBu)-OC6H5, VI, 11
A solution of Z-Ala-Val-Asp(OtBu)-Thr(tBu)-Ser(tBu)-Ser(tBu)-Glu(OtBu)-OC6H5 (20.16 g; 16.8 mmol) in DMF (400 mL) was hydrogenated with 5% Pd-BaSO4 (10 g) for 2 h in a Vibromixer apparatus. The reaction mixture was filtered through celite which was washed with additional DMF (228 mL). The combined filtrate was used directly in the next stage of synthesis. A portion of the material was precipitated by addition of H2O, filtered and dried in vacuo; mp >275°; [α]D25 -9.28° (c 1, TFE); Rf 0.77 (n-BuOH:AcOH:Pyr:H2O; 4-7-1-1); Rf 0.65 (n-BuOH:H2O:AcOH:EtOAc; 1-1-1-1). Anal. calc. for C53H89N7O15.H2O (1082.36): C, 58.82; H, 8.48; N, 9.06. Found: C, 59.11; H, 8.56; N, 9.23.

reactant | Z-Ala-Val-Asp(OtBu)-Thr(tBu)-Ser(tBu)-Ser(tBu)-Glu(OtBu)-OC6H5 | 16.8 mmol, 20.16 g | N([C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)OC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C61H95N7O17
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
catalyst | Pd BaSO4 | 10 g | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | H-Ala-Val-Asp(OtBu)-Thr(tBu)-Ser(tBu)-Ser(tBu)-Glu(OtBu)-OC6H5 | N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)OC1=CC=CC=C1 | C53H89N7O15
